* C:\Users\parth\FSAE_ELECTRONICS\BSPD\SIMS\BSPD\BSPD_Sim.asc
XU1 N006 N003 5V 0 N004 LT1001
XU2 N010 N008 5V 0 N009 LT1001
V1 5V 0 5
V2 N006 0 1
V3 N010 0 1
V4 N003 0 0.5
V5 N008 0 0.5
XU4 N016 N015 5V 0 N017 LT1001
XU5 N021 N019 5V 0 N020 LT1001
V7 N015 0 1
V8 N019 0 1
V9 N016 0 0.45
V10 N021 0 0.45
M5 N018 N013 5V 5V PMOS
A1 N004 0 0 0 N009 0 N001 0 AND Vhigh=5 Vlow=0
R1 N018 0 10K
A6 0 N011 N014 0 0 0 N013 0 AND Vhigh=5 Vlow=0
A5 N017 N020 0 0 0 0 N014 0 OR Vhigh=5 Vlow=0
XU3 0 N001 N005 5V N007 N002 N002 5V NE555
R2 5V P001 10K
C1 P001 0 10µF
C2 N007 0 0.01µF
A2 0 N012 0 N001 0 0 N011 0 OR Vhigh=5 Vlow=0
A3 N005 0 0 0 0 N012 0 0 BUF
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\parth\AppData\Local\LTspice\lib\cmp\standard.mos
* BSE_Op voltage
* Throttle_Op Voltage
* Throttle Thresh
* BSE Thresh %
.tran 1s
* Throttle %
* BSE %
* BSE_Op voltage threshold
* Throttle_Op Voltage threshold
.lib LTC.lib
.lib NE555.sub
.backanno
.end
